US05837708
2.09 g of 4,6-dichloro-5-(2-methoxy-phenoxy)-2,2'-bipyrimidine (EP-A- 0 526 708) were suspended in 75 ml of methanol and 150 ml of ammonia were condensed at 75° C. using a feedpipe. The reaction mixture was left to come to room temperature overnight, concentrated in a water-jet vacuum and the residue was partitioned between a small amount of water and methylene chloride (500 ml). The organic phase was dried over sodium sulphate and concentrated on a rotary evaporator. The residue was triturated with ether, the resulting solid was separated and dried in a high vacuum. The 4-amino-6-chloro-5-(2-methoxy-phenoxy )-2,2'-bipyrimidine was thus obtained as a fine, almost white powder. MS: 329 (M).

reactant | 4,6-dichloro-5-(2-methoxy-phenoxy)-2,2'-bipyrimidine | 2.09 g | ClC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)C1=NC=CC=N1 | C15H10Cl2N4O2
reactant | ammonia | 150 ml | N | H3N
solvent | methanol | 75 ml | CO | CH4O
product | 4-amino-6-chloro-5-(2-methoxy-phenoxy )-2,2'-bipyrimidine | NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)C1=NC=CC=N1 | C15H12ClN5O2
